US06555556B1
4-(1-t-Butoxycarbonylpiperidin-4-yloxy)-3-methoxyaniline
To a solution of 4-(1-t-butoxycarbonylpiperidin-4-yloxy)-3-methoxynitrobenzene (4.36 g) in methanol (60 ml) was added palladium on carbon (0.25 g) and the mixture was stirred under a hydrogen atmosphere at room temperature for 65 hours. The reaction mixture was filtered and the filtrate concentrated in vacuo. The residue was purified by chromatography on a silica gel column using hexane/ethyl acetate=1/1 as an eluant to give the desired compound (2.03 g, yield 51%) as a pale red oil.

reactant | 4-(1-t-butoxycarbonylpiperidin-4-yloxy)-3-methoxynitrobenzene | 4.36 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C=C(C=C1)[N+](=O)[O-])OC | C17H24N2O6
solvent | methanol | 60 ml | CO | CH4O
catalyst | palladium on carbon | 0.25 g | [Pd] | Pd
product | 4-(1-t-Butoxycarbonylpiperidin-4-yloxy)-3-methoxyaniline | 2.03 g, yield 51% | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C=C(N)C=C1)OC | C17H26N2O4
